US07829580B2
To a solution of (E)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol (6.27 g) in a mixed solvent of dichloromethane (100 ml) and toluene (100 ml) were added thioacetic acid (3.62 ml) and N,N-dimethylformamide dineopentyl acetal (14.0 ml). After the mixture was stirred at room temperature for 1 hour, water was added thereto and products were extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. Concentration under reduced pressure followed by purification of the residue by silica gel chromatography using hexane, ethyl acetate, and dichloromethane (2:1:1) as an eluent afforded crude (E)-4-(acetylsulfanyl)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-(triphenylmethyl)piperidine (4.0 g).

reactant | (E)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol | 6.27 g | COC(=O)CN1N=NC=C1\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H30N4O3
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | thioacetic acid | 3.62 ml | C(C)(=S)O | C2H4OS
reactant | N,N-dimethylformamide dineopentyl acetal | 14.0 ml | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
solvent | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-4-(acetylsulfanyl)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-5-yl]methylidene}-1-(triphenylmethyl)piperidine | 4.0 g | C(C)(=O)SC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/C1=CN=NN1CC(=O)OC | C32H32N4O3S
